US05773463
(±)cis-2-Ethoxy-3a,8b-dihydro4H-indeno[2,1-d]oxazole
A solution of (±) trans-1-chloro-2-ethoxycarbonylaminoindane (B. J. Walker and P. J. Wrobel, J. Chem. Soc. Chem. Commun., 1980, 462)(4.0 g, 0.017 mol) in ethanol (125 ml) was treated with K2CO3 (2.4 g, 0.018 mol) and diluted with water (50 ml). After stirring at room temperature for 20 h, the reaction was concentrated under high vacuum to approximately one quarter the original volume, then diluted with water (25 ml) and extracted into diethyl ether (3×50 ml). The combined extracts were washed with brine, dried over Na2SO4 and concentrated in vacuo to give the title compound as a low melting solid (3.3 g), m.p 53°-54° C. (from diethyl ether/n-pentane).

reactant | (±) trans-1-chloro-2-ethoxycarbonylaminoindane | 0.017 mol, 4.0 g | Cl[C@H]1[C@@H](CC2=CC=CC=C12)NC(=O)OCC | C12H14ClNO2
reactant | K2CO3 | 0.018 mol, 2.4 g | C(=O)([O-])[O-].[K+].[K+]
solvent | ethanol | 125 ml | C(C)O | C2H6O
solvent | water | 50 ml | O | H2O
product | (±)cis-2-Ethoxy-3a,8b-dihydro4H-indeno[2,1-d]oxazole | C(C)OC=1O[C@@H]2[C@H](N1)CC1=CC=CC=C12 | C12H13NO2
